US06608078B2
A mixture of 1-benzyl-3,5-dimethyl-4-hydroxypiperidine (1.0 g, 4.56 mmole) and 20% palladium hydroxide (0.3 g) in methanol (20 ml) was stirred at room temperature in hydrogen atmosphere (1 atm.) for 4 hr. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 3,5-dimethyl-4-hydroxypiperidine. Yield 0.5 g (90%), C7H15NO, m/z 130 (M+1), PMR (CDCl3): 0.9 (6H, m, 2×CH3), 1.44 (1H, m, H3), 1.7 (1H, m, H5), 2.3 (1H, m, H6), 2.46-2.84 (2H, m, H2 & H6), 2.98 (1H, m, H2), 3.3-3.7 (1H, m, H4).

reactant | 1-benzyl-3,5-dimethyl-4-hydroxypiperidine | 4.56 mmole, 1.0 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)O)C | C14H21NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.3 g | [OH-].[Pd+2].[OH-]
product | 3,5-dimethyl-4-hydroxypiperidine | CC1CNCC(C1O)C | C7H15NO
